US07276516B2
4-(3-Cyclopropyl-indole-1-sulfonyl)-benzoic acid
Add lithium hydroxidemonohydrate (181 mg, 4.31 mmol) to a solution of 4-(3-cyclopropyl-indole-1-sulfonyl)-benzoic acid methyl ester (505 mg, 1.42 mmol) in 3:1 dioxane:water (6.0 mL). Stir the mixture at RT for 4 h, dilute with water (80 mL) and add 1N HCl until mixture reaches pH 2. Collect the white solid by filtration and dry overnight under vacuum to give the title compound (450 mg, 93%). MS (ES) 341.9 (M+1)+, 340.1 (M−1)−.

reactant | lithium | 4.31 mmol, 181 mg | [Li] | Li
reactant | 4-(3-cyclopropyl-indole-1-sulfonyl)-benzoic acid methyl ester | 1.42 mmol, 505 mg | COC(C1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C1CC1)=O | C19H17NO4S
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | HCl | 1N | Cl | ClH
solvent | water | 80 mL | O | H2O
solvent | water | 6.0 mL | O | H2O
product | 4-(3-Cyclopropyl-indole-1-sulfonyl)-benzoic acid | 450 mg, 93% | C1(CC1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C18H15NO4S
